US05403852
The procedure is as in Example 1. A mixture of 3.4 g of 6-[4,5-Bis(4-methoxyphenyl)-2-oxazolyl]hexanenitrile, 1.45 g of sodium azide and 1.76 g of ammonium chloride in 70 cm3 of dimethylformamide is heated to 105° C. for 60 hours. After the addition of sodium azide and ammonium chloride (in the same quantities as before), the mixture is brought again to 105° C. for 60 hours. At room temperature, the mixture is diluted with 210 cm3 of water, acidified with 2N hydrochloric acid and extracted with ethyl acetate (3 times 50 cm3), and the reaction product is purified as described in Example 1. The solid isolated is recrystallised in 60 cm3 of ethyl acetate, and 1.7 g (44.8%) of 5-{5-[4,5-bis(4-methoxyphenyl)-2-oxazolyl]pentyl}tetrazole, a white solid, melting point 150° C. are obtained.

reactant | 6-[4,5-Bis(4-methoxyphenyl)-2-oxazolyl]hexanenitrile | 3.4 g | COC1=CC=C(C=C1)C=1N=C(OC1C1=CC=C(C=C1)OC)CCCCCC#N | C23H24N2O3
reactant | sodium azide | 1.45 g | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 1.76 g | [Cl-].[NH4+]
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | dimethylformamide | 70 cm3 | CN(C=O)C | C3H7NO
solvent | water | 210 cm3 | O | H2O
product | 5-{5-[4,5-bis(4-methoxyphenyl)-2-oxazolyl]pentyl}tetrazole | 1.7 g, 44.8% | COC1=CC=C(C=C1)C=1N=C(OC1C1=CC=C(C=C1)OC)CCCCCC1=NN=NN1 | C23H25N5O3
